US08008350B2
i) 1-bromo-2-fluoro-4-[(4-fluorophenyl)sulfonyl]benzene
Ferric chloride (0.5 g) was added to a mixture of 4-bromo-3-fluoro-benzenesulfonyl chloride (2.5 g) and fluorobenzene (3 ml) and then stirred at reflux for 18 hours. The flask was cooled to room temperature and the residue was partitioned between aqueous NaHCO3 and DCM. The DCM layer was washed with brine, dried (MgSO4) and evaporated under reduced pressure. The residue was recrystallised from ethanol to give buff coloured crystals.

reactant | 4-bromo-3-fluoro-benzenesulfonyl chloride | 2.5 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | fluorobenzene | 3 ml | FC1=CC=CC=C1 | C6H5F
product | 1-bromo-2-fluoro-4-[(4-fluorophenyl)sulfonyl]benzene | BrC1=C(C=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)F)F | C12H7BrF2O2S
